US07034039B2
To a solution of tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.13 g, 0.29 mmol) in ethyl acetate (4 mL) was added a 4N hydrogen chloride ethyl acetate solution (1 mL), and the mixture was stirred at room temperature for 12 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from diisopropyl ether and washed with diisopropyl ether (5 mL×2) to give [3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]acetonitrile hydrochloride (0.096 g, 88%) as a pale yellow powder.

reactant | tert-butyl[6-(cyanomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.29 mmol, 0.13 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CC#N)=O)CC(C)C)=O | C27H31N3O3
reactant | hydrogen chloride ethyl acetate | 4N, 1 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | [3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]acetonitrile hydrochloride | 0.096 g, 88% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)CC#N)=O)CC(C)C | InChI=1S/C22H23N3O.ClH/c1-15(2)14-25-20(13-24)21(17-6-4-3-5-7-17)19-12-16(10-11-23)8-9-18(19)22(25)26;/h3-9,12,15H,10,13-14,24H2,1-2H3;1H
